US06096743
By using 2.00 g of 2,4,5-trifluoronitrobenzene, 3.43 g of triethylamine, 25 ml of DMF, 25 ml of THF and 1.58 g of glycine ethyl ester hydrochloride, 0.59 g (20%) of N-(4,5-difluoro-2-nitrophenyl)glycine ethyl ester was obtained.

reactant | 2,4,5-trifluoronitrobenzene | 2.00 g | FC1=C(C=C(C(=C1)F)F)[N+](=O)[O-] | C6H2F3NO2
reactant | triethylamine | 3.43 g | C(C)N(CC)CC | C6H15N
reactant | DMF | 25 ml | CN(C)C=O | C3H7NO
reactant | glycine ethyl ester hydrochloride | 1.58 g | Cl.C(C)OC(CN)=O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | N-(4,5-difluoro-2-nitrophenyl)glycine ethyl ester | 0.59 g, 20% | C(C)OC(CNC1=C(C=C(C(=C1)F)F)[N+](=O)[O-])=O | C10H10F2N2O4
